US04267175
A solution of N-nitroso-N'-2-thenylpiperazine (3.0 g, 0.014 mole) in anhydrous freshly distilled tetrahydrofurane (30 ml) was added dropwise to a stirred suspension of lithium aluminium hydride (1.5 g excess) under nitrogen in anhydrous tetrahydrofuran (150 ml) at 60°-65° C. After addition, stirring was continued for 3 hours. Work-up via cooling, controlled addition of water (1.5 ml), 10% sodium hydroxide (2.25 ml) and water (3.75 ml) followed by filtration, drying over potassium carbonate, filtration and evaporation in vacuo gave N-amino-N'-2-thenyl-piperazine (2.7 g, 96%) as an almost colourless oil, used without further purification,

reactant | N-nitroso-N'-2-thenylpiperazine | 0.014 mole, 3.0 g | N(=O)N1CCN(CC1)CC1=CC=CS1 | C9H13N3OS
reactant | lithium aluminium hydride | 1.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1.5 ml | O | H2O
reactant | sodium hydroxide | 2.25 ml | [OH-].[Na+]
reactant | water | 3.75 ml | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 30 ml | O1CCCC1 | C4H8O
product | N-amino-N'-2-thenyl-piperazine | 2.7 g, 96% | NN1CCN(CC1)CC1=CC=CS1 | C9H15N3S
